US05576324
5-(2-Butenyloxy)-3,3,8-trimethyl-3,4-dihydrocarbostyril
To a solution of 5-hydroxy-3,3,8-trimethyl-3,4-dihydrocarbostyril (23 g, 11.2 mmol) and potassium carbonate (3.1 g, 22.4 mmol) in dimethylformamide (20 ml), crotyl bromide (1.8 g, 13.4 mmol) was added and stirred at 70° C. for 2 hours. The reaction mixture was poured into ice-water, and precipitated crystals were collected by filtration. The collected crude crystals were dissolved in chloroform, washed with water, and dried. The solvent was evaporated, and the residue was recrystallized from chloroform-hexane. 1.9 g of the title compound was obtained as colorless needles (65.4%).

reactant | 5-hydroxy-3,3,8-trimethyl-3,4-dihydrocarbostyril | 11.2 mmol, 23 g | OC1=C2CC(C(NC2=C(C=C1)C)=O)(C)C | C12H15NO2
reactant | potassium carbonate | 22.4 mmol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | crotyl bromide | 13.4 mmol, 1.8 g | C(C=CC)Br | C4H7Br
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-(2-Butenyloxy)-3,3,8-trimethyl-3,4-dihydrocarbostyril | 1.9 g | C(C=CC)OC1=C2CC(C(NC2=C(C=C1)C)=O)(C)C | C16H21NO2
